US08293897B2
Step 5) N-(4-(7-(benzyloxy)quinolin-4-yloxy)-3-fluorophenyl)-N-phenylcyclopropane-1,1-dicarboxamide
To a solution of 1-(phenylcarbamoyl)cyclopropanecarboxylic acid (1.14 g, 5.6 mmol) in dry CH2Cl2 (8 mL) was added HATU (2.11 g, 5.6 mmol) at 0° C. After stirring for 10 minutes, a solution of the 4-(7-(benzyloxy)quinolin-4-yloxy)-3-fluorobenzenamine (1.0 g, 2.8 mmol) and Et3N-(0.7 g, 6.9 mmol) in dry CH2Cl2 (5 mL) was added. The reaction mixture was stirred at 40° C. for 24 hrs, quenched with water (10 mL), and extracted with CH2Cl2 (30 mL×3). The combined organic phases were dried over anhydrous Na2SO4, filtered and the filtrate was concentrated in vacuo. The residue was chromatographed with a silica gel column (1:1 (v/v) EtOAc/n-hexane) to afford the title compound as a white solid (1.3 g, 85%).

reactant | 1-(phenylcarbamoyl)cyclopropanecarboxylic acid | 5.6 mmol, 1.14 g | C1(=CC=CC=C1)NC(=O)C1(CC1)C(=O)O | C11H11NO3
reactant | HATU | 5.6 mmol, 2.11 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(7-(benzyloxy)quinolin-4-yloxy)-3-fluorobenzenamine | 2.8 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)N)F | C22H17FN2O2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(7-(benzyloxy)quinolin-4-yloxy)-3-fluorophenyl)-N-phenylcyclopropane-1,1-dicarboxamide | 1.3 g, 85% | C(C1=CC=CC=C1)OC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)N(C(=O)C1(CC1)C(=O)N)C1=CC=CC=C1)F | C33H26FN3O4
